US04863958
A mixture of 3-methyl-4-hydroxy-5-propyl-7-fluorobenzofurancarboxylic acid (0.10 gm; 0.4mmoles) and copper(20 mg) in guinoline (50 mL) was refluxed for a period of 2.5 hours. The two phases were separated and the organic phase was dried (Na2SO4), and concentrated in vacuo. The residue was purified by preparative TLC and eluted with 5% ethylacetate in hexane to yield 3-methyl-4-hydroxy-5-propyl-7-fluorobenzofuran (62 mg ; 75%), identical to the product obtained from the cyclisation reaction described above in step f.

reactant | 3-methyl-4-hydroxy-5-propyl-7-fluorobenzofurancarboxylic acid | 0.4mmoles, 0.10 gm | CC1=C(OC2=C1C(=C(C=C2F)CCC)O)C(=O)O | C13H13FO4
catalyst | copper | 20 mg | [Cu] | Cu
product | 3-methyl-4-hydroxy-5-propyl-7-fluorobenzofuran | 62 mg, 75% | CC1=COC2=C1C(=C(C=C2F)CCC)O | C12H13FO2
